US06509499B1
A solution of 1.7 g (14.8 mmol) of methanesulphonyl chloride in 5 ml of anhydrous tetrahydrofuran is added dropwise to a solution, maintained under a nitrogen atmosphere, of 2.7 g (11.0 mmol) of 3,5-dimethyl-4-[(nitromethyl)sulphonyl]aniline and 1.6 g (20.2 mmol) of pyridine, dried over potassium hydroxide, in 50 ml of anhydrous tetrahydrofuran. The mixture is stirred for 6 h 30 min at room temperature and is then refluxed for 4 h. 1.1 g (9.60 mmol) of methanesulphonyl chloride are then added and refluxing is continued for 1 h 30 min. A further 1.1 g (9.60 mmol) of methanesulphonyl chloride are added and refluxing is continued for 4 h. After cooling, the reaction medium is poured into ice-cold water and extracted with methylene chloride. The combined organic extracts are dried over sodium sulphate and concentrated to dryness under reduced pressure. The residue obtained is crystallized from a cooled mixture of hexane and methylene chloride and is purified by recrystallization from a mixture of hexane and ethyl acetate, to give 1.1 g (yield=22%) of N-[3,5-dimethyl-4-[(nitromethyl)sulphonyl]phenyl]methanesulphonamide containing 14 mol % of ethyl acetate.

reactant | methanesulphonyl chloride | 14.8 mmol, 1.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3,5-dimethyl-4-[(nitromethyl)sulphonyl]aniline | 11.0 mmol, 2.7 g | CC=1C=C(N)C=C(C1S(=O)(=O)C[N+](=O)[O-])C | C9H12N2O4S
reactant | pyridine | 20.2 mmol, 1.6 g | N1=CC=CC=C1 | C5H5N
reactant | methanesulphonyl chloride | 9.60 mmol, 1.1 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulphonyl chloride | 9.60 mmol, 1.1 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-[3,5-dimethyl-4-[(nitromethyl)sulphonyl]phenyl]methanesulphonamide | 1.1 g, yield=22% | CC=1C=C(C=C(C1S(=O)(=O)C[N+](=O)[O-])C)NS(=O)(=O)C | C10H14N2O6S2
